US03941821
To a solution of 300 ml. of anhydrous ethanol and 0.15 moles of sodium thiocyanate is added 35 g. (0.12 moles) of α, 2'-dichloro-4-biphenylylacetic acid and stirred for 15 hours. The reaction mixture is filtered and washed with absolute ethanol. The filtrate is evaporated to dryness, the residue is dissolved in 250 ml. of ether and washed several times with water. The ether is then dried and evaporated to dryness to obtain α-thiocyanato-2'-chloro-4-biphenylylacetic acid.

reactant | sodium thiocyanate | 0.15 moles | [S-]C#N.[Na+]
reactant | α, 2'-dichloro-4-biphenylylacetic acid | 0.12 moles | ClC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C14H10Cl2O2
solvent | ethanol | C(C)O | C2H6O
product | α-thiocyanato-2'-chloro-4-biphenylylacetic acid | S(C#N)C(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C15H10ClNO2S
